US05232946
4'-(2-Amino-propyl)-4-ethyl-biphenyl
1.0 g (2.6 mmol) of 4'-(2-phthalimido-propyl)-4-acetyl-biphenyl are stirred into 25 ml of glycol with 0.5 ml of hydrazine hydrate and 0.9 g (0.016 mol) of potassium hydroxide for 3 hours at 200° C. The mixture is then diluted with water, extracted with ether and the extracts are concentrated by evaporation.

reactant | 4'-(2-phthalimido-propyl)-4-acetyl-biphenyl | 2.6 mmol, 1.0 g | C1(C=2C(C(N1C(CC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O)C)=O)=CC=CC2)=O | C25H21NO3
reactant | hydrazine hydrate | 0.5 ml | O.NN
reactant | potassium hydroxide | 0.016 mol, 0.9 g | [OH-].[K+]
solvent | water | O | H2O
product | 4'-(2-Amino-propyl)-4-ethyl-biphenyl | NC(CC1=CC=C(C=C1)C1=CC=C(C=C1)CC)C | C17H21N
